US05466687
1-(4-Chlorobenzoyl)-4-(4-cyanobenzyl)piperidine
8.4 g of 1-(4-chlorobenzoyl)-4-(4-cyanobenzylidene)piperidine are hydrogenated (5 bar) at ambient temperature for 15 minutes in 400 ml of toluene with the addition of 2 g of palladium black. After addition of 1 g of palladium black, the mixture is hydrogenated for an additional 2.5 hours, a further 1 g of catalyst is added and the mixture is hydrogenated for an additional hour. 7.9 g (93.3% of theory) of the title compound are obtained as a colourless powder of melting point 137°-139° C.

reactant | 1-(4-chlorobenzoyl)-4-(4-cyanobenzylidene)piperidine | 8.4 g | ClC1=CC=C(C(=O)N2CCC(CC2)=CC2=CC=C(C=C2)C#N)C=C1 | C20H17ClN2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium black | 2 g | [Pd] | Pd
catalyst | palladium black | 1 g | [Pd] | Pd
product | 1-(4-Chlorobenzoyl)-4-(4-cyanobenzyl)piperidine | ClC1=CC=C(C(=O)N2CCC(CC2)CC2=CC=C(C=C2)C#N)C=C1 | C20H19ClN2O
